US04000275
3-Ethoxybenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 2-chlorobenzimidazole and 4-ethoxyanthranilic acid.

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-ethoxyanthranilic acid | C(C)OC=1C=C(C(C(=O)O)=CC1)N | C9H11NO3
product | 3-Ethoxybenzimidazo[2,1-b]quinazolin-12(6H)one | C(C)OC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C16H13N3O2
